US06440440B1
A dispersion of sodium hydride in a mineral oil (60%) (0.22 mol) was treated with hexane under N2 flow to remove the oil and then dispensed in THF (100 ml) under N2 flow. Ethyl (diethylphosphono)acetate (0.22 mol) was added dropwise. The mixture was stirred for 30 minutes until the gas development has stopped. A mixture of (1,1′-biphenyl)-4-ylphenylmethanone (0.2 mol) in THF (100 ml) was added dropwise at room temperature. The mixture was stirred at room temperature for 1 hour, then stirred and refluxed for 17 hours, cooled, poured out into HCl 10% and ice and extracted three times with DCM. The combined organic layer was washed once with a saturated K2CO3 solution, twice with H2O and once with a saturated NaCl solution, then dried, filtered and the solvent was evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2/EtOAc/hexane 1/1/98). Two pure fractions were collected and their solvents were evaporated. Fraction 2 was crystallized from 2-propanol. The precipitate was filtered off and dried. The mother layer was evaporated and combined with fraction 1, yielding 45 g of ethyl 3-[(1,1′-biphenyl)4-yl]-3-phenyl-2-propenoate (interm. 18).

reactant | sodium hydride | [H-].[Na+]
reactant | Ethyl (diethylphosphono)acetate | 0.22 mol | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | (1,1′-biphenyl)-4-ylphenylmethanone | 0.2 mol | C1(=CC=C(C=C1)C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C19H14O
reactant | HCl | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | ethyl 3-[(1,1′-biphenyl)4-yl]-3-phenyl-2-propenoate | 45 g | C1(=CC=C(C=C1)C(=CC(=O)OCC)C1=CC=CC=C1)C1=CC=CC=C1 | C23H20O2
